US05744488
Methyl 4-(2-aminoethyl)-3-(1H-imidazol-1-ylmethyl)-2-methyl-1H-indole-1-propanoate
Hydrogenation of methyl 4-(2-benzyloxycarbonylaminoethyl)-3-(1H-imidazol-1-ylmethyl)-2-methyl-1H-indole-1-propanoate (0.50 g) in tetrahydrofuran (20 ml) in the presence of 10% palladium on carbon (100 mg+a further 50 mg quantities after 24 and 48hours) for 72 hours, followed by work up as described for Preparation 32 gave the title compound as a gum (0.20 g), Rf. 0.15(SS3). δ(CDCl3): 1.70(2H,br), 2.47(3H,s), 2.81(2H,t), 2.88(4H,s), 3.70(3H,s), 4.48(2H,t), 5.37(2H,s), 6.86(1H,s), 6.95(1H,d), 7.04(1H,s), 7.17(1H,m), 7.24(1H,d), 7.42(1H,s).

reactant | methyl 4-(2-benzyloxycarbonylaminoethyl)-3-(1H-imidazol-1-ylmethyl)-2-methyl-1H-indole-1-propanoate | 0.50 g | C(C1=CC=CC=C1)OC(=O)NCCC1=C2C(=C(N(C2=CC=C1)CCC(=O)OC)C)CN1C=NC=C1 | C27H30N4O4
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | [Pd] | Pd
product | Methyl 4-(2-aminoethyl)-3-(1H-imidazol-1-ylmethyl)-2-methyl-1H-indole-1-propanoate | 0.20 g | NCCC1=C2C(=C(N(C2=CC=C1)CCC(=O)OC)C)CN1C=NC=C1 | C19H24N4O2
